US04935493
Boc-Pro-Thr(OBzl)-OH was prepared by coupling Boc-Pro-OSu (the N-hydroxysuccinamide ester of Boc-Pro-OH) to H-Thr (OBzl) - OH. H-Thr (OBzl)-OH.HCL was dissolved in 25 ml of water, NaHCO3 (6.21 g, 73.9 mmoles) and a solution of Boc-Pro-Osu (5.07 g, 16.25 mmoles) in 25 ml of dioxane were added. After stirring 3 hours, the reaction mixture was acidified with hydrochloric acid and the product extracted into ethyl acetate. It was washed with 0.2N HCl prepared in saturated aqueous NaCl, saturated NaCl and dried over anhydrous Na2SO4. Solvent was evaporated to yield 6.24 g (mp 120°-12.5°).

reactant | Boc-Pro-OSu | N1([C@H](C(=O)ON2C(=O)CCC2=O)CCC1)C(=O)OC(C)(C)C | C14H20N2O6
reactant | Boc-Pro-OH | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | H-Thr | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | NaHCO3 | 73.9 mmoles, 6.21 g | C(=O)(O)[O-].[Na+]
reactant | Boc-Pro-Osu | 16.25 mmoles, 5.07 g | CC(C)(C)OC(=O)N1CCC[C@H]1C(=O)ON2C(=O)CCC2=O | C14H20N2O6
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | 25 ml | O | H2O
product | Boc-Pro-Thr(OBzl)-OH | N1([C@H](C(=O)N[C@@H]([C@H](OCC2=CC=CC=C2)C)C(=O)O)CCC1)C(=O)OC(C)(C)C | C21H30N2O6
